US09120749B2
tert-Butyl [trans-4-(dimethylamino)cyclohexyl]methylcarbamate
To a solution of tert-butyl [trans-4-aminocyclohexyl]methylcarbamate (1.15 g, 5.00 mmol), paraformaldehyde (454 mg, 15.0 mmol), and sodium cyanoborohydride (940 mg, 15.0 mmol) in methanol (40 mL) was added acetic acid (catalytic) and the reaction mixture stirred at room temperature for 18 h. The reaction mixture was quenched with water and concentrated to remove methanol. The pH of the aqueous layer was adjusted to 10 with 1 M aqueous sodium hydroxide followed by extraction with methylene chloride. The organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated to afford the desired product (1.23 g, 96%) as a thick oil: ESI MS m/z 257 [C14H28H2O2+H]+.

reactant | tert-butyl [trans-4-aminocyclohexyl]methylcarbamate | 5.00 mmol, 1.15 g | N[C@@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O | C12H24N2O2
reactant | paraformaldehyde | 15.0 mmol, 454 mg | C=O | CH2O
reactant | sodium cyanoborohydride | 15.0 mmol, 940 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 40 mL | CO | CH4O
product | tert-Butyl [trans-4-(dimethylamino)cyclohexyl]methylcarbamate | 1.23 g, 96% | CN([C@@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O)C | C14H28N2O2
